US06350749B1
Under ice-cooling, to phosphorus oxychloride (3.6 g) was added 7-phenyl-1,4,5,6,7,8-hexahydroquinoline-4,5-dione (0.35 g), and the mixture was stirred at 100° C. for 2 hours and cooled. Under reduced pressure, phosphorus oxychloride was evaporated, and to the residue was added 1N sodium hydroxide solution. The mixture was extracted with ethyl acetate, and the organic layer was washed with water and saturated brine, dried with magnesium sulfate and concentrated under reduced pressure to give colorless crystals of 4-chloro-7-phenyl-5,6,7,8-tetrahydroquinolin-5-one (0.35 g).

reactant | phosphorus oxychloride | 3.6 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-phenyl-1,4,5,6,7,8-hexahydroquinoline-4,5-dione | 0.35 g | C1(=CC=CC=C1)C1CC(C=2C(C=CNC2C1)=O)=O | C15H13NO2
product | 4-chloro-7-phenyl-5,6,7,8-tetrahydroquinolin-5-one | 0.35 g | ClC1=CC=NC=2CC(CC(C12)=O)C1=CC=CC=C1 | C15H12ClNO
